US06706725B1
b) 5-(2-Ethyl-[1,3]dioxolan-2-yl)thiophene-2-carbaldehyde
15 g (81.4 mmol) of 2-ethyl-2-2-thienyl-[1,3]dioxolane are dissolved in 300 mL of anhydrous THF and the mixture is then cooled to −78° C. 53 mL (89 mmol) of 1.7 M tert-butyllithium solution are then added, after which the reaction medium is stirred for 1 hour. 10 mL (120 mmol) of anhydrous DMF are then added and the medium is stirred for 1 hour. The reaction medium is treated at −78° C. with 1N hydrochloric acid solution and is then extracted with ethyl acetate and the organic phases are combined, dried and concentrated under reduced pressure. The residue obtained is purified by chromatography on a column of silica. A yellow oil is obtained (m=19 g; Y=100%).

reactant | 2-ethyl-2-2-thienyl-[1,3]dioxolane | 81.4 mmol, 15 g | C(C)C1(OCCO1)C=1SC=CC1 | C9H12O2S
reactant | tert-butyllithium | 89 mmol, 1.7 M, 53 mL | C(C)(C)(C)[Li]
reactant | DMF | 120 mmol, 10 mL | CN(C)C=O | C3H7NO
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 5-(2-Ethyl-[1,3]dioxolan-2-yl)thiophene-2-carbaldehyde | C(C)C1(OCCO1)C1=CC=C(S1)C=O | C10H12O3S
